US08669381B2
Step 1: Synthesis of methyl 3-chloro-4-methylbenzoate
To a solution of 3-chloro-4-methylbenzoic acid (20 g, 117 mmol) in MeOH (200 mL) was added dropwise thionyl chloride (25.6 mL, 352 mmol) at 0° C. with stirring. The mixture was stirred at room temperature for 5 days. The reaction was concentrated. The residue was dissolved in EA (500 mL), washed with 10% Na2CO3 (250 mL×2), water (250 mL) and brine (250 mL), dried over Na2SO4, filtered and concentrated to afford product as a yellow solid (20.8 g, 96%).

reactant | 3-chloro-4-methylbenzoic acid | 117 mmol, 20 g | ClC=1C=C(C(=O)O)C=CC1C | C8H7ClO2
reactant | thionyl chloride | 352 mmol, 25.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | MeOH | 200 mL | CO | CH4O
product | methyl 3-chloro-4-methylbenzoate | 20.8 g, 96% | ClC=1C=C(C(=O)OC)C=CC1C | C9H9ClO2
